Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Jaw claudication
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: The patient is a ___ male w/PMHx significant anxiety and
depression presenting with several days of jaw claudication.  
The
patient was in his usual state of health until several weeks ago
when he began to develop a bit of left posterior neck 
discomfort.
He attributed this to his head positioning when working on his
computer (with his head turned just slightly to the right).  
With
acetaminophen and Aleve, this pain had been improving, and he 
had
discussed it with his psychiatrist Dr. ___, which
seemed to help.  He also began to notice a little bit of
discomfort over his left temple, and on his left lower jaw.  He
attributed these pains to the left neck pain that he had
developed.  The left neck pain also seemed to improve with a
muscle rub.

Then, in the last few days he developed symptoms of a common 
cold
(dry cough, sore throat, nasal congestion).  He denies any
fevers, chills, sweats, myalgias, shortness of breath, or chest
pain.  He denies sick contacts, and did not receive the flu shot
this year.  As the symptoms evolved, he was somewhat more
bothered by the discomfort on his left temple, and begin to rub
the area, initially noting no abnormalities there, however with
more rubbing noted a bit of a "bump."  At that point the rubbing
began to hurt more than help.  He noted that it does hurt in 
that
area when eating, he denies any visual changes.  He does note a
bit of bilateral shoulder discomfort, although no obvious
weakness.  He did some searching on the Internet, and learned
about temporal arteritis, and became somewhat concerned about
this, so came into the hospital.

When asked what he is most worried about, specifically in 
regards
to his health, he begins by talking about his living situation
and his roommate.  His roommate, ___, is a ___ man 
whom
he has known for at least ___ years.  He has lived with them for
the last ___ years, and within the last year ___ health has
worsened, he has had some falls, and he has been sick.  Mr.
___ is found this stressful, and feels a sense of
responsibility to help care for this man, as he does not have a
lot of ___ people involved in his care.  They share an
apartment in an apartment complex.  Patient also notes that he
has struggled with depression anxiety for quite some time, and
has actually been on disability for the last ___ years because of
this.  He used to live with his parents, however they passed 
away
approximately ___ years ago.  His prior work was for a ___ in a ___.  He used to be on higher doses of
medications for depression and anxiety, and "tranquilizers", as
well as Adderall.  Then he met Dr. ___ psychiatrist, 
who
he sees monthly, and has been doing okay.  He rarely needs to
take his clonazepam, last dose was yesterday, but prior to that
had been 6 months earlier, in preparation for a doctor's
appointment.  He acknowledges that at the moment he is fairly
anxious.

In the ED: He was swabbed for influenza, which was negative,
blood testing and imaging were unremarkable, but he was noted to
have an elevated WBC and lactate, and was quite tachycardic (160
on triage).  There was some concern for sepsis, thought likely
due to a viral syndrome, and he was given IV fluids. He was also
given cefepime for unclear reasons, as well as prednisone 60 mg
(presumably for empiric treatment for temporal arteritis), as
well as aspirin 324 mg p.o.  A repeat lactate was normal,
troponins were normal, his heart rate improved, and an
echocardiogram in the ED was negative for pericardial effusion. 
He was admitted for evaluation and treatment.

ROS: [x] As per above HPI, otherwise reviewed and negative in 
all
systems

Primary Care Provider: ___, MD

___ providers: 
Dr. ___, Psychiatry
Dr. ___, ___, in ___ (for
the Androgel)

 
Past Medical History:
PMHx:
Anxiety
Depression
Hyperhidrosis
Hypogonadism
Irritable bowel syndrome
Obsessive-compulsive disorder
Osteoporosis of the spine, osteopenia of the hips
Vitamin D insufficiency
Hyperlipidemia
Insomnia
Chronic constipation

PSHx:
Deviated septum surgery in ___
Denies ___ procedures
 
Social History:
___
Family History:
FHx:
Maternal grandmother died at age ___, used sublingual
nitroglycerin occasionally.  Father died of lung cancer
approximately ___ years ago.  Mother died with multiple sclerosis
approximately ___ years ago.

 
Physical Exam:
Admission Physical Exam:
T 98.9, BP 123/79, HR 111, RR 18, O2 sat 97% on room air.  
Review
of heart rates in web OMR spanning back approximately ___ years
shows rates ranging from 76-120, with 3 out of 10 values greater
than 110.  The dates of those 3 values correspond with 3
outpatient clinic visits, one for a cerumen impaction, one for 
an
annual wellness visit, and one for a follow-up visit.
Middle-aged man lying in bed, alert, cooperative, NAD, although
he is somewhat diaphoretic and pale appearing.  Anicteric, MMM,
PERRL.  Upon palpation of his bilateral temporal regions, he has
no obvious lesions or bumps on the right side, the left side 
does
have a slightly raised area that is nontender, nonpulsatile, and
feels slightly rubbery in consistency.  Equal chest rise, CTAB
posteriorly, no WOB or cough.  Heart tachycardic, but regular, 
no
obvious murmurs.  Abdomen soft, NT ND.  Extremities slightly 
cool
but not cold, and no pitting edema.  No rashes noted on limited
exam.  No obvious joint abnormalities.  Cranial nerves II-XII
intact, strength bilaterally 5 out of 5, sensation to light 
touch
intact throughout, reflexes symmetric and 1+ bilaterally in the
knees, and difficult to elicit in the biceps tendon.  Gait and
___ neurological testing deferred.  Affect is slightly 
anxious,
although we are able to have a good conversation.

Discharge Exam
Vital Signs: 98.0PO 104 / 60 73 18 98 RA 
Glucose: 90s-130s
GEN: Alert, NAD, mildly anxious
HEENT: NC/AT, PERRL, face symmetric, mild TTP over the L TMJ, no 
pain on palpation of L temporal region, no swelling/masses in 
the L temporal region
CV: tachycardic, otherwise RRR, no m/r/g
PULM: CTA B 
GI: S/NT/ND, BS present
EXT: no ___ or calf tenderness
NEURO: Alert; EOMI; face symmetric; equal facial sensation 
bilaterally; tongue midline; ___ strength in all 4 extremities
 
Pertinent Results:
ADMISSION LABS:
___ 10:15PM BLOOD WBC-16.4*# RBC-5.15 Hgb-16.2 Hct-47.0 
MCV-91 MCH-31.5 MCHC-34.5 RDW-12.6 RDWSD-42.4 Plt ___
___ 10:15PM BLOOD Neuts-83.6* Lymphs-8.6* Monos-6.3 
Eos-0.2* Baso-0.9 Im ___ AbsNeut-13.71* AbsLymp-1.41 
AbsMono-1.03* AbsEos-0.03* AbsBaso-0.14*
___ 10:15PM BLOOD ___ PTT-29.6 ___
___ 10:15PM BLOOD Glucose-204* UreaN-13 Creat-0.9 Na-143 
K-3.3 Cl-101 HCO3-22 AnGap-23*
___ 10:15PM BLOOD ALT-17 AST-19 CK(CPK)-86 AlkPhos-112 
TotBili-0.6
___ 10:15PM BLOOD Albumin-4.8

___ 10:15PM BLOOD cTropnT-<0.01
___ 04:35AM BLOOD cTropnT-<0.01

___ 10:57AM BLOOD %HbA1c-5.0 eAG-97

___ 10:15PM BLOOD TSH-2.1

___ 10:15PM BLOOD Cortsol-20.1*
___ 04:35AM BLOOD Cortsol-3.6
___ 09:55AM BLOOD Cortsol-1.6*

___ 10:15PM BLOOD CRP-2.5

___ 10:29PM BLOOD Lactate-4.6*
___ 01:20AM BLOOD Lactate-2.0

___ 09:55AM BLOOD SED RATE-6      

___ 11:30PM URINE Color-Yellow Appear-Clear Sp ___
___ 11:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-100 Ketone-NEG Bilirub-NEG Urobiln-2* pH-7.0 Leuks-NEG

___ 11:30PM ___ BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

URINE CULTURE (Final ___:    NO GROWTH.

BLOOD CX x 1 PENDING, NGTD

CXR - IMPRESSION: No acute cardiopulmonary process.

DISCHARGE LABS:
___ 07:40AM BLOOD WBC-8.8 RBC-4.33* Hgb-13.3* Hct-40.5 
MCV-94 MCH-30.7 MCHC-32.8 RDW-12.9 RDWSD-44.2 Plt ___
___ 07:40AM BLOOD Glucose-99 UreaN-17 Creat-0.6 Na-145 
K-3.6 Cl-110* HCO3-26 AnGap-___ man with past medical history of significant 
anxiety, depression, hyperhidrosis, hypogonadism, 
obsessive-compulsive disorder, now presenting with several days 
of possible upper respiratory tract infection, and left temporal 
discomfort with left jaw claudication.  Also found to have 
significant tachycardia and leukocytosis.

#Leukocytosis: Etiology not entirely clear, as his initial 
leukocytosis was noted prior to him receiving steroids. He did
also receive cefepime in the ED; however, he has no clear 
localizing evidence of bacterial infection on evaluation
(negative UA, CXR). He does have symptoms c/w a viral URI; 
however, not sure that this would cause a reactive leukocytosis. 
Nevertheless, he remained afebrile, and WBC normalized. He will 
have close ___ with his PCP.

#Jaw Pain: While there was initial concern for temporal 
arteritis, further history not consistent with this. He has no
pain on palpation of the temporal region on exam, and his 
ESR/CRP are not elevated. Jaw pain seems more related to 
muscular spasm, as patient also endorses muscular tightness in 
the L neck / shoulder. Acetaminophen, Naprosyn as needed for 
discomfort. Pt will ___ closely with PCP as above.

#Hyperglycemia: Noted on initial lab work but resolved 
spontaneously.

#Anxiety, Depression, Obsessive-compulsive disorder: On home 
regimen of buspirone and duloxetine as well as PRN clonazepam. 
Of note, his tachycardia on presentation was likely related to 
anxiety, as he has had tachycardia during prior appointments. 
Furthermore, HR noted to rise significantly during MD exam, and 
patient endorsed anxiety at the time. Pt should ___ closely with 
PCP and psychiatrist.

#Vitamin A usage: He was unaware of what dose of vitamin A he 
takes. Out of concern (although lower probability) that some of 
his symptoms could be related to vitamin A toxicity, his vitamin 
A was held on discharge. He should further discuss this with his 
PCP at ___ appointment.

#Hypogonadism
- will resume home androgel on discharge

#Osteoporosis of the spine, osteopenia of the hips, and Vitamin 
D insufficiency
- continued home vitamin D

#Hyperlipidemia
- continued home statin 

#Insomnia
- continued home zolpidem

TRANSITIONAL ISSUES:
- pt with close PCP ___ to ensure improvement in symptoms
- would repeat glucose and WBC at ___ appointment
- consider sending vitamin A level if symptoms persisting
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. AndroGel (testosterone) 1 % (50 mg/5 gram) transdermal DAILY 
2. DULoxetine 30 mg PO DAILY 
3. Atorvastatin 20 mg PO DAILY 
4. BusPIRone 2.5 mg PO DAILY 
5. ClonazePAM 0.5 mg PO DAILY:PRN anxiety 
6. Zolpidem Tartrate 6.6 mg PO QHS:PRN insomnia 
7. Naproxen 250 mg PO Q12H:PRN Pain - Mild 
8. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
9. Vitamin A Dose is Unknown  PO DAILY 
10. Vitamin D ___ UNIT PO DAILY 
11. Bisacodyl ___AILY:PRN constipation 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  AndroGel (testosterone) 1 % (50 mg/5 gram) transdermal DAILY 
 
3.  Atorvastatin 20 mg PO DAILY  
4.  Bisacodyl ___AILY:PRN constipation  
5.  BusPIRone 2.5 mg PO DAILY  
6.  ClonazePAM 0.5 mg PO DAILY:PRN anxiety  
7.  DULoxetine 30 mg PO DAILY  
8.  Naproxen 250 mg PO Q12H:PRN Pain - Mild  
9.  Vitamin D ___ UNIT PO DAILY  
10.  Zolpidem Tartrate 6.6 mg PO QHS:PRN insomnia  
11. HELD- Vitamin A Dose is Unknown  PO DAILY  This medication 
was held. Do not restart Vitamin A until you discuss this with 
your primary care physician.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Leukocytosis, tachycardia
#Temporal Pain
#Anxiety, Depression, Obsessive-compulsive disorder
#Vitamin A usage
#Hypogonadism
#Osteoporosis of the spine, osteopenia of the hips, and Vitamin 
D insufficiency
#Hyperlipidemia
#Insomnia
#Chronic constipation
#Hyperhidrosis
#Irritable bowel syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with an elevated white cell count, and 
tachycardia, and left temporal pain.  We evaluated you with 
careful examinations, lab tests, x-rays, and monitoring on 
telemetry.  Ultimately, it was felt that many of your symptoms 
were likely related to a viral illness with a component of 
muscular spasm as well.

It is very important that you follow up with your primary care 
physician as instructed.

It is important to follow-up as noted below.
 
Followup Instructions:
___